US07288624B2
H. N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-3-amino-4-oxobutanoic acid.
N-Acetyl-tyrosinyl-valine (464 mg, 1.44 mmol) and N-Pipecolyl-4-amino-5-benzyloxy-2-oxotetrahydrofuran (412 mg, 1.3 mmol) were dissolved in 5 ml each of dimethylformamide and dichloromethane and cooled to 0° C. To the cooled solution was added 1-hydroxybenzotriazole (HOBT; 210 mg, 1.56 mmol) followed by the addition of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDC; 326 mg, 1.7 mmol). After stirring for 18 hours, the mixture was diluted with ethyl acetate and washed with water, 10% sodium hydrogen sulfate, 10% sodium bicarbonate, and water. The organic layer was concentrated to give a crude solid that was purified by flash chromatography (SiO2) eluting with 94:6:1 (dichloromethane:isopropanol: pyridine) to give 370 mg of the title compound.

reactant | N-Acetyl-tyrosinyl-valine | 1.44 mmol, 464 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)O | C16H22N2O5
reactant | N-Pipecolyl-4-amino-5-benzyloxy-2-oxotetrahydrofuran | 1.3 mmol, 412 mg | N1C(C(=O)NC2CC(OC2OCC2=CC=CC=C2)=O)CCCC1 | C17H22N2O4
reactant | 1-hydroxybenzotriazole | 1.56 mmol, 210 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 1.7 mmol, 326 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(N-Acetyl-tyrosinyl-valinyl-pipecolyl)-3-amino-4-oxobutanoic acid | 370 mg | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N1C(C(=O)NC(CC(=O)O)C=O)CCCC1 | C26H36N4O8
